US07253286B2
Ethyl(E)-3-[2-amino-4-(4-{[(4-fluoroanilino)carbonyl]amino}phenoxy)-3-pyridyl]-2-propenoate
Ethyl(E)-3-[2-amino-4-(4-aminophenoxy)-3-pyridyl]-2-propenoate (230 mg), p-fluorophenyl isocyanate (0.11 ml) and tetrahydrofuran (6 ml) were stirred at room temperature for 30 minutes. After adding NH type silica gel to the reaction solution, the solvent was distilled off under reduced pressure, and the reaction product was adsorbed onto the silica gel. The silica gel was charged into a dry column packed with NH type silica gel, and column purification was performed (ethyl acetate). The solvent was distilled off under reduced pressure to obtain 200 mg of a white solid.

reactant | Ethyl(E)-3-[2-amino-4-(4-aminophenoxy)-3-pyridyl]-2-propenoate | 230 mg | NC1=NC=CC(=C1/C=C/C(=O)OCC)OC1=CC=C(C=C1)N | C16H17N3O3
reactant | p-fluorophenyl isocyanate | 0.11 ml | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | Ethyl(E)-3-[2-amino-4-(4-{[(4-fluoroanilino)carbonyl]amino}phenoxy)-3-pyridyl]-2-propenoate | 200 mg | NC1=NC=CC(=C1/C=C/C(=O)OCC)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C23H21FN4O4
